US03984558
When 3,5-bis(3-pyridyl)-1,2,4-triazole is used in the process of Example 1 in place of 3,5-bis(4-pyridyl)-1,2,4-triazole, 1-(2-cyanoethyl)-3,5-bis(3-pyridyl)-1,2,4-triazole is obtained melting at 145°-147°C.

reactant | 3,5-bis(3-pyridyl)-1,2,4-triazole | N1=CC(=CC=C1)C1=NNC(=N1)C=1C=NC=CC1 | C12H9N5
reactant | 3,5-bis(4-pyridyl)-1,2,4-triazole | N1=CC=C(C=C1)C1=NNC(=N1)C1=CC=NC=C1 | C12H9N5
product | 1-(2-cyanoethyl)-3,5-bis(3-pyridyl)-1,2,4-triazole | C(#N)CCN1N=C(N=C1C=1C=NC=CC1)C=1C=NC=CC1 | C15H12N6
